US05235092
Preparation of 2,6-diisopropylphenoxyacetic acid (Compound 2)
16.4 g of 2,6-diisopropylphenol, 10.0 g of chloroacetic acid, 10.0 g of sodium hydroxide and 300 ml of water were put into a round bottom flask and stirred under reflux for 6 hours. The reaction mixture was cooled and then the pH was adjusted to from 3 to 4 with a dilute hydrochloric acid. The precipitate thereby formed was collected by filtration, washed with water and dried to obtain 20.5 g of crude crystals. The crude crystals were recrystallized from diethyl ether-hexane to obtain 19.6 g (yield: 88.3%) of the desired compound as colorless prism crystals. Melting point: 84°-87° C.

reactant | 2,6-diisopropylphenol | 16.4 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | chloroacetic acid | 10.0 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 10.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 2,6-diisopropylphenoxyacetic acid | 19.6 g, yield: 88.3% | C(C)(C)C1=C(OCC(=O)O)C(=CC=C1)C(C)C | C14H20O3
